US06432949B1
N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-morpholinopyridine-4-carboxamide
Using an analogous procedure to that described in Example 21, N-[2-chloro-5-(2-chloropyrid-4-ylcarbonylamino)phenyl]-2-chloropyridine-4-carboxamide was reacted with morpholine to give the title compound in 84% yield; NMR Spectrum: (DMSOd6) 3.52 (m, 8H), 3.73 (m, 8H), 7.12 (m, 2H), 7.26 (d, 2H), 7.55 (d, 1H), 7.73 (d, 1H), 8.3 (m, 2H), 10.21 (s, 1H), 10.48 (s, 1H); Mass Spectrum: M+H+ 523.

reactant | N-[2-chloro-5-(2-chloropyrid-4-ylcarbonylamino)phenyl]-2-chloropyridine-4-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)Cl)NC(=O)C1=CC(=NC=C1)Cl | C18H11Cl3N4O2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | N-[2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-2-morpholinopyridine-4-carboxamide | 84% yield | ClC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C26H27ClN6O4
